US04402803
7-(thien-2-ylacetamido)-3-cephem-4-carboxylic acid
A 200 mg. portion of 7-(thien-2-ylacetamido)-3-methanesulfonyloxyl-3-cephem-4-carboxylic acid was dissolved in a working fluid containing 2.5 mg./ml. of the starting compound, 35% by volume of ethanol, and 64% by volume of 1.0 molar pH 7.0 McIlvaine buffer. The measured pH of the working fluid was 7.5. The electrolysis was carried out as described in Example 1 in the same type of cell described in Example 1, and the product was worked up as described in Example 2 to obtain about 130 mg. of crude product. The product was converted to the methyl ester, and submitted to mass spectroscopy, which revealed the presence of molecular ions of mass 337 and 338, confirming that the desired product was obtained.

reactant | 7-(thien-2-ylacetamido)-3-methanesulfonyloxyl-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)O)C1=O | C14H14N2O7S3
solvent | ethanol | C(C)O | C2H6O
product | 7-(thien-2-ylacetamido)-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C13H12N2O4S2
